US07271193B2
(+/−)-trans-Acetic acid 3-(3-acetyl-2-hydroxy-4,6-dimethoxy-phenyl)-1-methyl-pyrrolidin-2-ylmethyl ester (1.65 g, 4.7 mmol) was reacted with 2-chloro-pyridine-3-carboxylic acid (2.44 g, 15.49 mmol) in the presence of dry pyridine (25 mL) and POCl3 (2.1 mL, 23.43 mmol) using the conditions described in example 52 to get trans-2-Chloro-nicotinic acid 2-(2-acetoxymethyl-1-methyl-pyrrolidin-3-yl)-6-acetyl-3,5-dimethoxy-phenyl ester. This was converted in situ to the title compound(66) using NaH (1.29 g, 26.86 mmol) in 1,4-dioxane (25 mL) as described in example 26.

reactant | (+/−)-trans-Acetic acid 3-(3-acetyl-2-hydroxy-4,6-dimethoxy-phenyl)-1-methyl-pyrrolidin-2-ylmethyl ester | 4.7 mmol, 1.65 g | C(C)(=O)C=1C(=C(C(=CC1OC)OC)[C@H]1[C@@H](N(CC1)C)COC(C)=O)O | C18H25NO6
reactant | 2-chloro-pyridine-3-carboxylic acid | 15.49 mmol, 2.44 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | POCl3 | 23.43 mmol, 2.1 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | trans-2-Chloro-nicotinic acid 2-(2-acetoxymethyl-1-methyl-pyrrolidin-3-yl)-6-acetyl-3,5-dimethoxy-phenyl ester | C(C)(=O)OC[C@@H]1N(CC[C@H]1C1=C(C(=C(C=C1OC)OC)C(C)=O)OC(C1=C(N=CC=C1)Cl)=O)C | C24H27ClN2O7
